US06586441B2
2-Amino-4-[(benzo [1,3]dioxol-5-ylmethyl)-amino]-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and piperonylamine in DME. ES-MS m/e (%): 336 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | piperonylamine | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-[(benzo [1,3]dioxol-5-ylmethyl)-amino]-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=CC2=C(OCO2)C=C1)C#N)C=1OC=CC1 | C17H13N5O3
